US06503939B2
3,3-Dimethyl-5-(3-nitro-phenyl)-2,3-dihydro-1H-indole (way-160655) 3,3-dimethyl-1,3-dihydro-2H-indol-2-one
Using the standard coupling conditions given in Example 1, the title compound was prepared from 5-bromo-3,3-dimethyl-2,3-dihydro-1H-indole (0.25 g, 1.1 mmol), tetrakis(triphenylphosphine) palladium (0.08 g, 0.07 mmol) in dimethoxyethane (5 mL) with 3-nitrophenylboronic acid (0.22 g, 1.3 mmol) and sodium carbonate (0.35 g, 3.3 mmol) in 5 mL water. The title compound (0.17 g, 60%) was obtained as a brown semi-solid: 1H NMR (CDCl3) δ 1.38 (s, 3H), 3.40 (s, 2H), 6.72 (d, J=8.0 Hz, 1H), 7.29-7.34 (m, 2H), 7.54 (dd, J=8.0, 8.0 Hz, 1H), 7.86 (d, J=7.8 Hz, 1H), 8.09 (dd, J=8.0, 1.5 Hz, 1H), 8.40 (dd, J=2.0, 2.0 Hz, 1H); 13C-NMR (CDCl3) δ 27.89 (q), 41.93 (s), 62.05 (d), 109.78, 120.87, 121.02, 121.23, 126.87 (d), 129.19 (s), 129.69, 132.52 (d), 139.64, 143.75, 148.94, 151.17 (s); MS (EI) m/z 268 (M)+.

reactant | 5-bromo-3,3-dimethyl-2,3-dihydro-1H-indole | 1.1 mmol, 0.25 g | BrC=1C=C2C(CNC2=CC1)(C)C | C10H12BrN
reactant | 3-nitrophenylboronic acid | 1.3 mmol, 0.22 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 3.3 mmol, 0.35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.07 mmol, 0.08 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3,3-Dimethyl-5-(3-nitro-phenyl)-2,3-dihydro-1H-indole | 0.17 g, 60% | CC1(CNC2=CC=C(C=C12)C1=CC(=CC=C1)[N+](=O)[O-])C | C16H16N2O2
